US06635640B2
4-(2-Carboxyethyl)-2-methyl-5-(2-oxo-4-piperidin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid Ethyl Ester
4-Piperidin-4-yl-1,3-dihydroindol-2-one (45 mg, 0.2 mmol) was condensed with 4-(2-carboxyethyl)-5-formyl-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (56 mg, 0.23 mmol) to give the title compound.

reactant | 4-Piperidin-4-yl-1,3-dihydroindol-2-one | 0.2 mmol, 45 mg | N1CCC(CC1)C1=C2CC(NC2=CC=C1)=O | C13H16N2O
reactant | 4-(2-carboxyethyl)-5-formyl-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 0.23 mmol, 56 mg | C(C)OC(=O)C1=C(NC(=C1CCC(=O)O)C=O)C | C12H15NO5
product | 4-(2-Carboxyethyl)-2-methyl-5-(2-oxo-4-piperidin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=C(NC(=C1CCC(=O)O)C=C1C(NC2=CC=CC(=C12)C1CCNCC1)=O)C | C25H29N3O5
